### PR TITLE
[Merged by Bors] - feat(Analysis): radius of convergence for binomial series

### PR DESCRIPTION
**Pull request by vasnesterov**
Introduce the binomial series as `FormalMultilinearSeries`, and prove that its radius of convergence is `1`.

---

- [x] depends on: #22518

[Open in Gitpod](https://gitpod.io/from-referrer/)

This PR continues the work from #22538.

Original PR: https://github.com/leanprover-community/mathlib4/pull/22538

### CODE REVIEW

**Comment by j-loreaux** [comment]
I would have expected to see that actual sums here too. Is there are reason you didn't include them?

**Comment by vasnesterov** [comment]
@j-loreaux they are in #23831.

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -459,6 +460,18 @@ theorem choose_add_smul_choose [NatPowAssoc R] (r : R) (n k : ℕ) :
...
+    {a : R} {n : ℕ} :
+    Ring.choose a n = (n.factorial : R)⁻¹ • (descPochhammer ℤ n).smeval a := by
+  rw [Ring.descPochhammer_eq_factorial_smul_choose]
+  trans (n.factorial : R)⁻¹ • ((n.factorial : R) • Ring.choose a n)
+  · rw [smul_smul, inv_mul_cancel₀]
+    · simp
+    rw [Nat.cast_ne_zero]
+    exact Nat.factorial_ne_zero n
+  · congr
+    apply Nat.cast_smul_eq_nsmul
```
Comment (j-loreaux) [inline Mathlib/RingTheory/Binomial.lean]:
```suggestion
theorem choose_eq_smul [Field R] [CharZero R] {a : R} {n : ℕ} :
    Ring.choose a n = (n.factorial : R)⁻¹ • (descPochhammer ℤ n).smeval a := by
  rw [Ring.descPochhammer_eq_factorial_smul_choose, ← Nat.cast_smul_eq_nsmul R, inv_smul_smul₀]
  simpa using Nat.factorial_ne_zero n
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+-/
+noncomputable def binomialSeries {𝕂 : Type u} [Field 𝕂] [CharZero 𝕂] (𝔸 : Type v)
+    [Ring 𝔸] [Algebra 𝕂 𝔸] [TopologicalSpace 𝔸] [IsTopologicalRing 𝔸] (a : 𝕂) :
+    FormalMultilinearSeries 𝕂 𝔸 𝔸 := .ofScalars 𝔸 (Ring.choose a ·)
+
+theorem binomialSeries_eq_ordinaryHypergeometricSeries {𝕂 : Type u} [Field 𝕂] [CharZero 𝕂]
+    {𝔸 : Type v} [Ring 𝔸] [Algebra 𝕂 𝔸] [TopologicalSpace 𝔸] [IsTopologicalRing 𝔸] {a b : 𝕂}
+    (h : ∀ (k : ℕ), (k : 𝕂) ≠ -b) :
+    binomialSeries 𝔸 a =
+    (ordinaryHypergeometricSeries 𝔸 (-a) b b).compContinuousLinearMap (-(.id _ _)) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Binomial.lean:44]: For the proof of this, you should do the following:

1. First prove that `(ofScalars 𝔸 c).compContinuousLinearMap (-f) = (ofScalars 𝔸 (fun k ↦ (-1) ^ k * c k)).compContinuousLinearMap` as a separate lemma.
2. Then after this lemma, and unfolding `binomialSeries` and `ordinaryHypergeometricSeries` and an application of [FormalMultilinearSeries.compContinuousLinearMap_id](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/FormalMultilinearSeries.html#FormalMultilinearSeries.compContinuousLinearMap_id), you'll have `ofScalars _ _` on both sides of the equality, from which you should be able to use `congr! with n v` to step inside. From there it should be a nice little `calc` to get where you need to go, and you can probably clean up the proof significantly.

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+/-- Binomial series:
+$$
+\sum_{k=0}^{\infty} \; \binom{a}{k} \; x^k = 1 + a x + \frac{a(a-1)}{2!} x^2 +
+  \frac{a(a-1)(a-2)}{3!} x^3 + \cdots
+$$
+-/
+noncomputable def binomialSeries {𝕂 : Type u} [Field 𝕂] [CharZero 𝕂] (𝔸 : Type v)
+    [Ring 𝔸] [Algebra 𝕂 𝔸] [TopologicalSpace 𝔸] [IsTopologicalRing 𝔸] (a : 𝕂) :
+    FormalMultilinearSeries 𝕂 𝔸 𝔸 := .ofScalars 𝔸 (Ring.choose a ·)
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Binomial.lean]: I'm not sure this is actually documented style, but when the statement takes multiple lines, I generally like to put the body on a new line regardless of whether it fits on the previous one. And does it not work without the `·` for some reason?
```suggestion
    FormalMultilinearSeries 𝕂 𝔸 𝔸 :=
  .ofScalars 𝔸 (Ring.choose a)

```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+    (binomialSeries 𝔸 (a : 𝕂)).radius = ⊤ := by
+  simp [binomialSeries_eq_ordinaryHypergeometricSeries (b := (1 : 𝕂)) (by norm_cast; simp),
+    ordinaryHypergeometric_radius_top_of_neg_nat₁]
+
+/-- The radius of convergence of `binomialSeries 𝔸 a` is `1`, when `a` is not natural. -/
+theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type u} [NormedDivisionRing 𝔸]
+    [NormedAlgebra 𝕂 𝔸] {a : 𝕂} (ha : ∀ (k : ℕ), a ≠ k) : (binomialSeries 𝔸 a).radius = 1 := by
+  simp [binomialSeries_eq_ordinaryHypergeometricSeries (b := (1 : 𝕂)) (by norm_cast; simp)]
+  conv at ha => ext; rw [ne_comm]
+  exact ordinaryHypergeometricSeries_radius_eq_one _ _ _ _ (by norm_cast; simp [ha])
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
  exact ordinaryHypergeometricSeries_radius_eq_one _ _ _ _ (by norm_cast; grind)
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+open scoped Nat
+
+universe u v
+
+/-- Binomial series:
+$$
+\sum_{k=0}^{\infty} \; \binom{a}{k} \; x^k = 1 + a x + \frac{a(a-1)}{2!} x^2 +
+  \frac{a(a-1)(a-2)}{3!} x^3 + \cdots
+$$
+-/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Binomial.lean]: I think it's fine to leave the LaTeX in the module documentation only, which gets built into something readable by docgen. In contrast, the docstring appears on hovers, so it should be something readable within the editor.
```suggestion
/-- **Binomial series**: the (scalar) formal multilinear series with coefficients given
by `Ring.choose a`. The sum of this series is `fun x ↦ (1 + x) ^ a` within the radius
of convergence. -/
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 6]
```diff
@@ -0,0 +1,69 @@
...
+$$
+\sum_{k=0}^{\infty} \; \binom{a}{k} \; x^k = 1 + a x + \frac{a(a-1)}{2!} x^2 +
+  \frac{a(a-1)(a-2)}{3!} x^3 + \cdots
+$$
+where $a$ is an element of a normed field $\mathbb{K}$,
+and $x$ is an element of a normed algebra over $\mathbb{K}$.
+
+## Main Statements
+
+* `binomialSeries_radius_eq_one`: The radius of convergence of the binomial series is `1`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Binomial.lean]: I would give both versions, and describe the hypotheses.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
